US07850948B2
5.7 g (19.3 mmol) of 4-nitro-N-(2-diethylamino-ethyl)-2-methoxy-benzamide is dissolved in 120 ml of tetrahydrofuran:ethanol 1:1>mixed with 2 g of palladium on carbon (10%×50% water) and hydrogenated for 1 hour at room temperature and normal pressure. After being drawn off on diatomaceous earth and after concentration by evaporation, 5.45 g of 4-amino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide is obtained.

reactant | 4-nitro-N-(2-diethylamino-ethyl)-2-methoxy-benzamide | 19.3 mmol, 5.7 g | [N+](=O)([O-])C1=CC(=C(C(=O)NCCN(CC)CC)C=C1)OC | C14H21N3O4
solvent | tetrahydrofuran ethanol | 120 ml | O1CCCC1.C(C)O
catalyst | palladium on carbon | 2 g | [Pd] | Pd
product | 4-amino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide | 5.45 g | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1)OC | C14H23N3O2
